US07915267B2
N-{[3′-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)biphenyl-4-yl]sulfonyl}valine
To a suspension of methyl N-{[3′-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)biphenyl-4-yl]sulfonyl}valinate obtained in Reference Example 95 (0.250 g, 0.456 mmol) in THF (3 mL)-methanol (3 mL)-water (3 mL) was added 4N aqueous sodium hydroxide solution (0.399 mL, 1.60 mmol) at room temperature, and the mixture was stirred under heating at 80° C. for 15 hr. The reaction mixture was allowed to cool to room temperature, and concentrated under reduced pressure, and the residue was diluted with water. The mixture was acidified with 1N hydrochloric acid, and partitioned between ethyl acetate and water. The organic layer was washed with saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was crystallized from methanol to give the title compound as a white powder (0.202 g, 83%).

reactant | methyl N-{[3′-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)biphenyl-4-yl]sulfonyl}valinate | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC=1C=C(C=CC1)C1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)OC | C28H28N4O6S
reactant | methanol | 3 mL | CO | CH4O
reactant | water | 3 mL | O | H2O
reactant | sodium hydroxide | 1.60 mmol, 4N, 0.399 mL | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-{[3′-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)biphenyl-4-yl]sulfonyl}valine | 0.202 g, 83% | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC=1C=C(C=CC1)C1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)O | C27H26N4O6S
